US06509299B2
In 240 ml of toluene, 14.1 g of 4-hydroxy-6-methyl-2-pyrone was suspended, and 1.94 g of 4-dimethylaminopyridine, 16.6 g of 4, 4,4-trifluorobutyric acid and 21.9 g of dicyclohexylcarbodiimide were added thereto. The reaction mixture was stirred for 1 hour at room temperature and further stirred for 20 hours at 70° C. After cooling to room temperature, it was subjected to filtration. The filtrate was washed with 1% hydrochloric acid twice and saturated brine once in this order. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 5.38 g of 4-hydroxy-6-methyl-3-(4,4,4-trifluorobutyryl)-2-pyrone (hereinafter, referred to as the present compound (A)) mp 104° C.

reactant | 4-hydroxy-6-methyl-2-pyrone | 14.1 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 4, 4,4-trifluorobutyric acid | 16.6 g | FC(CCC(=O)O)(F)F | C4H5F3O2
reactant | dicyclohexylcarbodiimide | 21.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 1.94 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-hydroxy-6-methyl-3-(4,4,4-trifluorobutyryl)-2-pyrone | 5.38 g | OC1=C(C(OC(=C1)C)=O)C(CCC(F)(F)F)=O | C10H9F3O4
